US04782050
3. 1-methyl-5-phenylimidazole-2-carboxaldehyde
Using the procedure of Example 1D, 640 mg of 1-methyl-5-phenylimidazole, 1.55 ml of 2.6M n-butyllithium and 0.31 ml of dimethylformamide gave 320 mg of the desired product.

reactant | 1-methyl-5-phenylimidazole | 640 mg | CN1C=NC=C1C1=CC=CC=C1 | C10H10N2
reactant | n-butyllithium | 2.6M, 1.55 ml | C(CCC)[Li]
reactant | dimethylformamide | 0.31 ml | CN(C=O)C | C3H7NO
product | 1-methyl-5-phenylimidazole-2-carboxaldehyde | 320 mg | CN1C(=NC=C1C1=CC=CC=C1)C=O | C11H10N2O
